US09167819B2
Synthesis of 2-methoxy-3-(S-methylsulfonimidoyl)-N-(1-methyl-1H-tetrazol-5-yl)-4-(trifluoromethyl)benzamide (Table Example No. 1-28)
31.5 mg (0.228 mmol) of potassium carbonate were added to 36.0 mg (0.076 mmol) of 2-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-3-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]-4-(trifluoromethyl)benzamide in 5 ml of methanol. The mixture was stirred at RT for 30 minutes. For work-up, the solvent was removed at a temperature of at most 30° C. on a rotary evaporator. The residue was taken up in water and the mixture was extracted with dichloromethane. A drop of glacial acetic acid was then added to the aqueous phase, and the mixture was extracted twice with dichloromethane. On a rotary evaporator, the aqueous phase was then freed from the solvent at a temperature of at most 30° C. The residue was stirred with dichloromethane and then combined with the organic phases isolated above. The solvent was removed on a rotary evaporator, and 20 mg of product were isolated as residue.

reactant | potassium carbonate | 0.228 mmol, 31.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxy-N-(1-methyl-1H-tetrazol-5-yl)-3-[S-methyl-N-(trifluoroacetyl)sulfonimidoyl]-4-(trifluoromethyl)benzamide | 0.076 mmol, 36.0 mg | COC1=C(C(=O)NC2=NN=NN2C)C=CC(=C1S(=O)(=NC(C(F)(F)F)=O)C)C(F)(F)F | C14H12F6N6O4S
solvent | methanol | 5 ml | CO | CH4O
product | 2-methoxy-3-(S-methylsulfonimidoyl)-N-(1-methyl-1H-tetrazol-5-yl)-4-(trifluoromethyl)benzamide | 20 mg | COC1=C(C(=O)NC2=NN=NN2C)C=CC(=C1S(=O)(=N)C)C(F)(F)F | C12H13F3N6O3S
